US08530470B2
To a degassed solution of methyl 3-bromo-4-hydroxybenzoate (350 g, 1514.87 mmol) in ethanol (3 L) were added triethylamine (0.528 L, 3787.17 mmol), 1-(vinyloxy)butane (0.588 L, 4544.60 mmol), 1,1′-bis(diphenylphosphino)ferrocene (33.1 g, 60.6 mmol) and diacetoxypalladium (8.50 g, 37.9 mmol) under nitrogen. The mixture was heated at 70° C. overnight. The reaction was cooled down, filtered and the filtrate concentrated. The resulting solid was solubilized with DCM (2 L) and HCl 4N (1.14 L, 4544 mmol) was added under stirring. Stirring was maintained for 2 h, the organic phase was separated, dried over MgSO4, filtered and concentrated to afford a solid which was stirred in ether (5 L) for 2 h. The solid was filtered off and the filtrate concentrated to dryness to afford methyl 3-acetyl-4-hydroxybenzoate (240 g, 82%) as a beige powder. Mass spectrum: m/z [M−H]−=193.

reactant | methyl 3-bromo-4-hydroxybenzoate | 1514.87 mmol, 350 g | BrC=1C=C(C(=O)OC)C=CC1O | C8H7BrO3
reactant | triethylamine | 3787.17 mmol, 0.528 L | C(C)N(CC)CC | C6H15N
reactant | 1-(vinyloxy)butane | 4544.60 mmol, 0.588 L | C(=C)OCCCC | C6H12O
reactant | HCl | 4544 mmol, 4N, 1.14 L | Cl | ClH
solvent | ethanol | 3 L | C(C)O | C2H6O
solvent | ether | 5 L | CCOCC | C4H10O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 60.6 mmol, 33.1 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | diacetoxypalladium | 37.9 mmol, 8.50 g | C(C)(=O)O[Pd]OC(C)=O
solvent | DCM | 2 L | C(Cl)Cl | CH2Cl2
product | methyl 3-acetyl-4-hydroxybenzoate | 240 g, 82% | C(C)(=O)C=1C=C(C(=O)OC)C=CC1O | C10H10O4
